US06887896B1
(2E)-3-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-137)
Following General Procedure G-1, ethyl (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enoate (Compound A-126, 1.07 g, 2.29 mmol) and diisobutylaluminum hydride (1M in methylene chloride, 5.5 mL, 5.5 mmol) were reacted to give the title compound as a colorless oil after purification by flash chromatography (silica gel, 10% ethyl acetate in hexanes).

reactant | ethyl (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-enoate | 2.29 mmol, 1.07 g | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C(=O)OCC)/F)/CC)OCC | C24H32BrFO3
reactant | diisobutylaluminum hydride | 5.5 mmol, 1M, 5.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\CO)/F)/CC)OCC | C22H30BrFO2
